US07319104B2
4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol
Condensation of 4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol (500 mg; 1.61 mmol) with 2-chloro-5-ethyl-pyrimidine (0.19 ml; 1.54 mmol) as per general procedure E (conditions: 5 ml of DIEA, 200C, 16 hr) provided the title compound (490 mg; 76% yield).

reactant | 4-(2-{[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol | 1.61 mmol, 500 mg | FC(OC1=CC=C(CNCCC2=CC=C(C=C2)O)C=C1)(F)F | C16H16F3NO2
reactant | 2-chloro-5-ethyl-pyrimidine | 1.54 mmol, 0.19 ml | ClC1=NC=C(C=N1)CC | C6H7ClN2
reactant | DIEA | 5 ml | CCN(C(C)C)C(C)C | C8H19N
product | 4-(2-{(5-Ethylpyrimidin-2-yl)[4-(trifluoromethoxy)benzyl]amino}ethyl)phenol | 490 mg, 76% yield | C(C)C=1C=NC(=NC1)N(CCC1=CC=C(C=C1)O)CC1=CC=C(C=C1)OC(F)(F)F | C22H22F3N3O2
